US04225315
1-(2',6'-dimethylphenyl)-4-[(2-pyridyl)methylamino]-1,2-dihydro-1,3,5-triazin-2-one
To a suspension of 10.2 g. (28.0 mmol) of 1-(2',6'-dimethylphenyl)-3-[(2-pyridyl)methyl]amidinourea in CH3CN (100 ml) is added 10.0 g. (84.0 mmol) of DMF-DMA and the reaction mixture heated at reflux for two hours. The solvent is removed under vacuum and the residue diluted with H2O and made basic with 10% aqueous NaOH (pH10). The aqueous layer is extracted with CHCl3 (2×100 ml.) and the extracts dried (MgSO4) and concentrated under vacuum to an orange oil, which by NMR looks to be a mixture of starting material and product. The oil is layered out with H2O and Et2O. The oil solidifies. This solid is filtered and washed with H2O and Et2O and air dried. The solid is then crystallized (2×) from EtoAc to give 3.2 g. (37%) of tan crystalline solid, melting point 165°-6° C.

reactant | 1-(2',6'-dimethylphenyl)-3-[(2-pyridyl)methyl]amidinourea | 28.0 mmol | CC1=C(C(=CC=C1)C)NC(=O)NC(NCC1=NC=CC=C1)=N | C16H19N5O
reactant | DMF-DMA | 84.0 mmol | CN(C)C(OC)OC | C5H13NO2
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 1-(2',6'-dimethylphenyl)-4-[(2-pyridyl)methylamino]-1,2-dihydro-1,3,5-triazin-2-one | CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NCC1=NC=CC=C1)=O | C17H17N5O
